datasets/RMG-dataset.csv
rxn,Ea
[C:0]([C:1]([C:2]([C:3]1([H:19])[C:4]([H:20])=[C:5]([H:21])[c:6]2[c:7]([H:22])[c:8]([H:23])[c:9]([H:24])[c:10]([H:25])[c:11]21)([H:17])[H:18])([H:15])[H:16])([H:12])([H:13])[H:14].[H:26]>>[C:0]([C:1]([C:2]([C:3]1([H:19])[C:4]([H:20])([H:26])[C:5]([H:21])[c:6]2[c:7]([H:22])[c:8]([H:23])[c:9]([H:24])[c:10]([H:25])[c:11]21)([H:17])[H:18])([H:15])[H:16])([H:12])([H:13])[H:14],2.8054
[C:0]([O:1][O:2][H:6])([H:3])([H:4])[H:5].[O:7][H:8]>>[C:0]([H:3])([H:4])[H:5].[O:1]([O:2][H:6])[O:7][H:8],201.048
[C:0]1([H:10])[C:1]([H:11])=[C:2]([H:12])[C:3]([H:13])([H:14])[C:4]1([C:5]1([H:16])[C:6]([H:17])=[C:7]([H:18])[C:8]([H:19])=[C:9]1[H:20])[H:15]>>[C:0]1([H:10])[C:1]([H:11])=[C:2]([H:12])[C:3]([H:13])([H:14])[C:4]1([C:5]1=[C:6]([H:17])[C:7]([H:18])=[C:8]([H:19])[C:9]1([H:16])[H:20])[H:15],94.9768
[C:0](#[C:1][C:2]([C:3]([C:4]([C:5](=[C:6]([H:14])[H:15])[H:13])([H:11])[H:12])([H:9])[H:10])[H:8])[H:7]>>[C:0](#[C:1][C:2]1([H:8])[C:3]([H:9])([H:10])[C:4]([H:11])([H:12])[C:5]([H:13])[C:6]1([H:14])[H:15])[H:7],83.1779
[C:0](=[C:1]([C:2]([C:3]([H:8])([H:9])[H:10])[H:7])[H:6])([H:4])[H:5].[C:11]([C:12]#[C:13][C:14]([H:18])([H:19])[H:20])([H:15])([H:16])[H:17]>>[C:0](=[C:1]([C:2]([C:3]([H:8])([H:9])[H:10])([H:7])[C:12]([C:11]([H:15])([H:16])[H:17])=[C:13][C:14]([H:18])([H:19])[H:20])[H:6])([H:4])[H:5],63.9315
[C:0]1([H:9])=[C:1]([H:10])[c:2]2[c:3]([H:11])[c:4]([H:12])[c:5]([H:13])[c:6]([H:14])[c:7]2[C:8]1([H:15])[H:16].[O:17][O:18][H:19]>>[C:0]1([H:9])=[C:1]([H:10])[c:2]2[c:3]([H:11])[c:4]([H:12])[c:5]([H:13])[c:6]([H:14])[c:7]2[C:8]1[H:16].[H:15][O:17][O:18][H:19],53.969416
[C:0](=[C:1]([C:2]([S:3][H:8])[H:7])[H:6])([H:4])[H:5].[C:9]([S:10][H:14])([H:11])([H:12])[H:13]>>[C:0](=[C:1]([C:2]([S:3][H:8])([H:7])[H:14])[H:6])([H:4])[H:5].[C:9]([S:10])([H:11])([H:12])[H:13],30.1248
[C:0](=[C:1]([C:2]([C:3]([C:4]([C:5]([C:6]([H:18])([H:19])[H:20])([H:16])[H:17])([H:14])[H:15])([H:12])[H:13])([H:10])[H:11])[H:9])([H:7])[H:8].[O:21][H:22]>>[C:0](=[C:1]([C:2]([C:3]([C:4]([C:5]([C:6]([H:19])[H:20])([H:16])[H:17])([H:14])[H:15])([H:12])[H:13])([H:10])[H:11])[H:9])([H:7])[H:8].[H:18][O:21][H:22],2.204968
[C:0]([C:1]([C:2]([C:3](=[C:4]([C:5]([S:6][H:17])([H:15])[H:16])[H:14])[H:13])[H:12])([H:10])[H:11])([H:7])([H:8])[H:9].[S:18]([H:19])[H:20]>>[C:0]([C:1]([C:2]([C:3](=[C:4]([C:5]([S:6][H:17])([H:15])[H:16])[H:14])[H:13])([H:12])[H:19])([H:10])[H:11])([H:7])([H:8])[H:9].[S:18][H:20],30.9616
[C:0](#[C:1][C:2]([H:4])[H:5])[H:3].[H:6][H:7]>>[C:0](#[C:1][C:2]([H:4])([H:5])[H:7])[H:3].[H:6],93.7216
[C:0](#[C:1][C:2]([S:3][H:7])([H:5])[H:6])[H:4].[C:8](=[C:9]([C:10]([C:11]([H:16])([H:17])[H:18])[C:12]([H:19])([H:20])[H:21])[H:15])([H:13])[H:14]>>[C:0](#[C:1][C:2]([S:3][H:7])[H:6])[H:4].[H:5][C:10]([C:9](=[C:8]([H:13])[H:14])[H:15])([C:11]([H:16])([H:17])[H:18])[C:12]([H:19])([H:20])[H:21],29.288
[C:0](#[C:1][C:2]([C:3]([H:11])([H:12])[H:13])[C:4]([C:5](=[C:6]([C:7]([H:17])([H:18])[H:19])[C:8](=[C:9]([H:21])[H:22])[H:20])[H:16])([H:14])[H:15])[H:10]>>[C:0](#[C:1][C:2]1([C:3]([H:11])([H:12])[H:13])[C:4]([H:14])([H:15])[C:5]1([C:6]([C:7]([H:17])([H:18])[H:19])[C:8](=[C:9]([H:21])[H:22])[H:20])[H:16])[H:10],52.5092
[C:0]([C:1]([C:2]([H:7])([H:8])[H:9])([H:5])[H:6])([H:3])[H:4].[C:10]([C:11]([C:12]([C:13]([C:14]([C:15]([C:16]([H:29])([H:30])[H:31])([H:27])[H:28])([H:25])[H:26])([H:23])[H:24])([H:21])[H:22])([H:19])[H:20])([H:17])[H:18]>>[C:0]([C:1]([C:2]([H:7])([H:8])[H:9])([H:5])[H:6])([H:3])([H:4])[C:10]([C:11]([C:12]([C:13]([C:14]([C:15]([C:16]([H:29])([H:30])[H:31])([H:27])[H:28])([H:25])[H:26])([H:23])[H:24])([H:21])[H:22])([H:19])[H:20])([H:17])[H:18],0.0
[C:0]([C:1]1([H:10])[C:2]([H:11])([H:12])[C:3]([H:13])([H:14])[C:4]([H:15])([H:16])[C:5]([H:17])([H:18])[C:6]1([H:19])[H:20])([H:7])([H:8])[H:9].[O:21][O:22]>>[C:0]([C:1]1([H:10])[C:2]([H:11])([H:12])[C:3]([H:13])([H:14])[C:4]([H:16])[C:5]([H:17])([H:18])[C:6]1([H:19])[H:20])([H:7])([H:8])[H:9].[H:15][O:21][O:22],199.11656
[C:0](#[C:1][C:2](=[C:3]([C:4]([H:9])([H:10])[H:11])[C:5]#[C:6][H:12])[H:8])[H:7].[C:13](=[C:14]([C:15]([C:16]([H:21])([H:22])[H:23])[H:20])[H:19])([H:17])[H:18]>>[C:0](#[C:1][C:2]([C:3]([C:4]([H:9])([H:10])[H:11])([C:5]#[C:6][H:12])[C:15]([C:14](=[C:13]([H:17])[H:18])[H:19])([C:16]([H:21])([H:22])[H:23])[H:20])[H:8])[H:7],44.7688
[C:0](=[C:1]([C:2](=[C:3]([C:4]([H:11])([H:12])[H:13])[C:5](=[C:6]([H:15])[H:16])[H:14])[H:10])[H:9])([H:7])[H:8].[C:17]([c:18]1[c:19]([H:26])[c:20]([H:27])[c:21]([H:28])[c:22]([H:29])[c:23]1[H:30])([H:24])[H:25]>>[C:0](=[C:1]([C:2]([C:3]([C:4]([H:11])([H:12])[H:13])[C:5](=[C:6]([H:15])[H:16])[H:14])([H:10])[C:17]([c:18]1[c:19]([H:26])[c:20]([H:27])[c:21]([H:28])[c:22]([H:29])[c:23]1[H:30])([H:24])[H:25])[H:9])([H:7])[H:8],31.38
